US06174881B1
A solution of 2.7 g of 2-chloromethyl-6-(2-chlorophenyl)-8-nitro-4H-imidazo [1,2-a][1,4]benzodiazepine in 30 ml of dioxan was treated with a solution of 0.74 g of sodium hydrogen carbonate in 10 ml of water and the mixture was stirred at 80° C. for 2.5 h. The mixture was filtered and the filtrate was made neutral with aqueous 3N hydrochloric acid. The filtrate was evaporated in a vacuum and the residue was taken up in chloroform and water. The chloroform phase was washed with water, dried over sodium sulphate and evaporated in a vacuum. The residue was crystallized in 30 ml of ethyl acetate and diethyl ether and filtered. The crystals were dissolved in dichloromethane and chromatographed over 75 g of silica gel. With dichloromethane/ ethanol 99:1, 98:2 and 97:3 there were eluted small amounts of different impurities, with dichloromethane/ethanol 95:5 there was eluted 6-(2-chlorophenyl)-8-nitro-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol. After recrystallization from ethyl acetate there were obtained 1.4 g of pure 6-(2-chlorophenyl)-8-nitro-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol of m.p. 173-174° C. which was converted into the methane-sulphonate (m.p. 211-212° C.).

reactant | 2-chloromethyl-6-(2-chlorophenyl)-8-nitro-4H-imidazo [1,2-a][1,4]benzodiazepine | 2.7 g | ClCC=1N=C2N(C3=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C3)[N+](=O)[O-])C1 | C18H12Cl2N4O2
reactant | sodium hydrogen carbonate | 0.74 g | C(O)([O-])=O.[Na+]
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 6-(2-chlorophenyl)-8-nitro-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 1.4 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)[N+](=O)[O-])C=C(N2)CO | C18H13ClN4O3
